US07332519B2
Catalytic quantities of para-toluene sulfonic acid and ethyleneglycol (13.3 g: 0.21 mole) were added to 4-oxo-1-thiophen-3-yl-cyclohexanecarbonitrile (22 g; 0.107 mole) dissolved in toluene (500 ml). The reaction mixture was stirred for about 2 hours under reflux. On completion of the reaction (reaction monitored by thin layer chromatography), the toluene phase was separated, washed with sodium hydrogen carbonate solution (200 ml), dried (sodium sulfate) and concentrated under vacuum. 25 g 8-thiophen-3-yl-1,4-dioxa-spiro[4.5]decane-8-carbonitrile (95%; colorless solid) were obtained.

reactant | para-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyleneglycol | 0.21 mole, 13.3 g | C(CO)O | C2H6O2
reactant | 4-oxo-1-thiophen-3-yl-cyclohexanecarbonitrile | 0.107 mole, 22 g | O=C1CCC(CC1)(C#N)C1=CSC=C1 | C11H11NOS
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 8-thiophen-3-yl-1,4-dioxa-spiro[4.5]decane-8-carbonitrile | 25 g, 95% | S1C=C(C=C1)C1(CCC2(OCCO2)CC1)C#N | C13H15NO2S
